US07112598B2
3-Acetyl-5-chloro-2-(2-hydroxy-5-methoxyphenyl)benzothiazoline (Reference Compound No. 4-1)
A solution of 2-hydroxy-5-methoxybenzaldehyde (10.0 g, 65.7 mmol) in methanol (20 ml) was added to a solution of 2-amino-4-chlorothiophenol (10.5 g, 65.7 mmol) in methanol (20 ml) under a nitrogen stream at room temperature, the mixture was stirred at room temperature for 50 minutes, and then the precipitated crystals were filtered off. Acetic anhydride (20 ml, 212 mmol) was added to the obtained crystals, the mixture was stirred at room temperature overnight, and then the reaction mixture was concentrated under reduced pressure. Methanol (60 ml), water (10 ml) and potassium carbonate (5.0 g) were added to the residue, the whole was stirred at room temperature overnight, and then the reaction mixture was concentrated under reduced pressure. Ethyl acetate (300 ml) and 1 N-hydrochloric acid (200 ml) were added to the residue, and the whole was extracted. The organic layer was washed with saturated brine (150 ml), dehydrated with anhydrous magnesium sulfate and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (mobile phase: hexane/ethyl acetate=3/1) to give 7.7 g (60%) of the target compound.

reactant | 2-hydroxy-5-methoxybenzaldehyde | 65.7 mmol, 10.0 g | OC1=C(C=O)C=C(C=C1)OC | C8H8O3
reactant | 2-amino-4-chlorothiophenol | 65.7 mmol, 10.5 g | NC1=C(C=CC(=C1)Cl)S | C6H6ClNS
reactant | Acetic anhydride | 212 mmol, 20 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 3-Acetyl-5-chloro-2-(2-hydroxy-5-methoxyphenyl)benzothiazoline | 7.7 g, 60% | C(C)(=O)N1C(SC2=C1C=C(C=C2)Cl)C2=C(C=CC(=C2)OC)O | C16H14ClNO3S
